US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(2-methyl-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-1,3-benzenedicarboxamide
A mixture of N-[(3-bromo-2-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (93 mg, 0.00015 mol) in dioxane (4 mL) with 1,1-dimethylethyl (2S)-2-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperazinecarboxylate (81.2 mg, 0.000195 mol) was treated with Na2CO3 (48 mg, 0.00045 mol) and 0.75 mL H2O. The mixture was degassed for 15 min with N2, then treated with (PPh3)4Pd (17.3 mg, 0.000015 mol). The mixture was microwaved at 150° C. for 30 min. The reaction was quenched with H2O, then diluted and extracted with EtOAc (2×) combined organic extracts were washed with H2O, sat. aq. NaCl and dried (Na2SO4) and concentrated to give crude t-Boc product. The crude product was taken up in DCM (10 mL) containing 33% TFA and allowed to stand at room temperature for 1.5 h. LC-MS showed the reaction to be complete. Solvent was stripped off. Purification was carried out on a Gilson instrument with acetonitrile-water (0.1% TFA) gradient; C18-RP column. Fractions containing the clean desired product were combined; diluted with EtOAc; washed with sat. aq. NaHCO3; and the aq. phase was back-extracted with EtOAc. Combined organic extracts were washed with sat. aq. NaCl and dried (Na2SO4) and concentrated to a residue. It was taken up in a small amount of DCM and transferred to a vial and pumped down to afford the title compound as an ivory colored glassy solid [65.9 mg (58%)]. LC-MS m/z 743.7 (M+H)+.

reactant | N-[(3-bromo-2-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.00015 mol, 93 mg | BrC=1C(=C(C=CC1)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)C | C32H37BrN6O3
reactant | 1,1-dimethylethyl (2S)-2-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperazinecarboxylate | 0.000195 mol, 81.2 mg | C[C@@H]1N(CCN(C1)CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C23H37BN2O4
reactant | Na2CO3 | 0.00045 mol, 48 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | (PPh3)4Pd | 0.000015 mol, 17.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 0.75 mL | O | H2O
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(2-methyl-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-1,3-benzenedicarboxamide | 65.9 mg, 58% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C(=C(C=CC2)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)C)CC | C44H54N8O3
